US07259163B2
2-[N-(Methylmethylene)amino]-4methylpentanoic acid, tert-butyl ester
A solution of leucine tert-butyl ester (2.0 g, 8.9 mmol) and acetaldehyde (999 ul, 17.9 mmol) was stirred at room temperature for 5 minutes. Anhydrous sodium sulphate was added and the mixture stirred at room temperature for 18 hours. The solid was removed by filtration and the solvent evaporated in vacuo to afford the title compound as an oil.

reactant | leucine tert-butyl ester | 8.9 mmol, 2.0 g | C(C)(C)(C)OC([C@@H](N)CC(C)C)=O | C10H21NO2
reactant | acetaldehyde | 17.9 mmol, 999 ul | C(C)=O | C2H4O
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | 2-[N-(Methylmethylene)amino]-4methylpentanoic acid, tert-butyl ester | CC=NC(C(=O)OC(C)(C)C)CC(C)C | C12H23NO2
